************************************************************************
* auCdl Netlist:
* 
* Library Name:  REF_GEN
* Top Cell Name: trim_res_array_rn_2_fL
* View Name:     schematic
* Netlisted on:  Jul  5 22:35:11 2026
************************************************************************

.INCLUDE  /opt/pdk/lf11/PDK_LF11ISi_V1_3_2/tools/setup/subckt.cdl
*.BIPOLAR
*.RESI = 2000 
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: lf11is
* Cell Name:    rnpolym_pcell_0
* View Name:    schematic
************************************************************************

.SUBCKT rnpolym_pcell_0 B MINUS PLUS w=500n l=2u m=1
*.PININFO B:B MINUS:B PLUS:B
RR_0_0 PLUS MINUS $SUB=B $[rnpolym] $W=w $L=l
.ENDS

************************************************************************
* Library Name: lf11is
* Cell Name:    rnpolym_pcell_1
* View Name:    schematic
************************************************************************

.SUBCKT rnpolym_pcell_1 B MINUS PLUS w=500n l=2u m=1
*.PININFO B:B MINUS:B PLUS:B
RR_0_11 PLUS MINUS $SUB=B $[rnpolym] $W=w $L=l
RR_0_10 PLUS MINUS $SUB=B $[rnpolym] $W=w $L=l
RR_0_9 PLUS MINUS $SUB=B $[rnpolym] $W=w $L=l
RR_0_8 PLUS MINUS $SUB=B $[rnpolym] $W=w $L=l
RR_0_7 PLUS MINUS $SUB=B $[rnpolym] $W=w $L=l
RR_0_6 PLUS MINUS $SUB=B $[rnpolym] $W=w $L=l
RR_0_5 PLUS MINUS $SUB=B $[rnpolym] $W=w $L=l
RR_0_4 PLUS MINUS $SUB=B $[rnpolym] $W=w $L=l
RR_0_3 PLUS MINUS $SUB=B $[rnpolym] $W=w $L=l
RR_0_2 PLUS MINUS $SUB=B $[rnpolym] $W=w $L=l
RR_0_1 PLUS MINUS $SUB=B $[rnpolym] $W=w $L=l
RR_0_0 PLUS MINUS $SUB=B $[rnpolym] $W=w $L=l
.ENDS

************************************************************************
* Library Name: REF_GEN
* Cell Name:    trim_res_rnpolyn_2_fL
* View Name:    schematic
************************************************************************

.SUBCKT trim_res_rnpolyn_2_fL GNDA P1 P2
*.PININFO GNDA:B P1:B P2:B
XR0 GNDA net1 P1 / rnpolym_pcell_0 l=35u w=500n m=1
XR11 GNDA P2 net1 / rnpolym_pcell_0 l=35u w=500n m=1
XR1 GNDA P2 P1 / rnpolym_pcell_1 l=35u w=500n m=1
.ENDS

************************************************************************
* Library Name: REF_GEN
* Cell Name:    trim_res_array_rn_2_fL
* View Name:    schematic
************************************************************************

.SUBCKT trim_res_array_rn_2_fL GNDA P1 P2 SEL1 SEL2 SEL3 SEL4
*.PININFO GNDA:B P1:B P2:B SEL1:B SEL2:B SEL3:B SEL4:B
XI19 GNDA P2 net12 / trim_res_rnpolyn_2_fL
XI18 GNDA P2 net12 / trim_res_rnpolyn_2_fL
XI17 GNDA net5 net12 / trim_res_rnpolyn_2_fL
XI16 GNDA net1 net5 / trim_res_rnpolyn_2_fL
XI15 GNDA net7 net1 / trim_res_rnpolyn_2_fL
XI14 GNDA net2 net7 / trim_res_rnpolyn_2_fL
XI9 GNDA net10 net2 / trim_res_rnpolyn_2_fL
XI8 GNDA net4 net10 / trim_res_rnpolyn_2_fL
XI7 GNDA net11 net4 / trim_res_rnpolyn_2_fL
XI6 GNDA SEL4 net11 / trim_res_rnpolyn_2_fL
XI5 GNDA SEL3 SEL4 / trim_res_rnpolyn_2_fL
XI4 GNDA SEL2 SEL3 / trim_res_rnpolyn_2_fL
XI3 GNDA SEL1 SEL2 / trim_res_rnpolyn_2_fL
XI2 GNDA P1 SEL1 / trim_res_rnpolyn_2_fL
.ENDS

